US04259352
A mixture of 4-[N-trifluoroacetyl-(2-cyclohexylethylamino)]phenylacetyl chloride and 1.2 g. triethylamine in 100 ml. warm ether is treated with 2.5 g. diethyl tartrate and refluxed for 24 hours. The hot solution is filtered, the residue is washed with hot ether, and the solution is evaporated. After treatment with aqueous methanolic potassium carbonate, the product is precipitated by acidification, filtered, and dried. Crystallization from acetone yields diethyl O-[4-(2-cyclohexylethylamino)phenylacetyl]-tartrate as a white, crystalline solid.

reactant | 4-[N-trifluoroacetyl-(2-cyclohexylethylamino)]phenylacetyl chloride | FC(C(=O)N(C1=CC=C(C=C1)CC(=O)Cl)CCC1CCCCC1)(F)F | C18H21ClF3NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | diethyl tartrate | C(=O)(OCC)C(O)C(O)C(=O)OCC | C8H14O6
solvent | ether | CCOCC | C4H10O
product | diethyl O-[4-(2-cyclohexylethylamino)phenylacetyl]-tartrate | C1(CCCCC1)CCNC1=CC=C(C=C1)CC(=O)OC(C(=O)OCC)C(O)C(=O)OCC | C24H35NO7
